US06797718B2
A sealed tube containing ammonium acetate (12.7 g) and 6,7-dimethyl-4-phenoxy-1-(2-phenoxyethyl)-1H-imidazo[4,5-c]pyridine (1.27 g) from Part E was heated to 150° C. for 36 hours. HPLC and TLC analysis indicated that the reaction was complete. The reaction was allowed to cool to room temperature. The resulting reaction mixture was then dissolved in dichloromethane (DCM) and washed with 20% aqueous sodium hydroxide. The basic layer was washed with DCM and the combined organic layers were dried with magnesium sulfate and concentrated under reduced pressure. The resulting oil was passed through a silica gel column using 95/5 dichloromethane/methanol as the eluant. The product was recrystallized from isopropyl alcohol, and the resulting white solid was dried under vacuum to provide 6,7-dimethyl-1-(2-phenoxyethyl)-1H-imidazo[4,5-c]pyridin-4-amine, m.p. 197.0-199.0° C.

reactant | ammonium acetate | 12.7 g | C(C)(=O)[O-].[NH4+]
reactant | 6,7-dimethyl-4-phenoxy-1-(2-phenoxyethyl)-1H-imidazo[4,5-c]pyridine | 1.27 g | CC1=C(C2=C(C(=N1)OC1=CC=CC=C1)N=CN2CCOC2=CC=CC=C2)C | C22H21N3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6,7-dimethyl-1-(2-phenoxyethyl)-1H-imidazo[4,5-c]pyridin-4-amine | CC1=C(C2=C(C(=N1)N)N=CN2CCOC2=CC=CC=C2)C | C16H18N4O
